US07977371B2
3′-(Methylthio)acetophenone (Reference compound No. 5-1)
A suspension of 3′-mercaptoacetophenone (Reference compound No. 4-1, 1.5 g, 9.9 mmol), potassium carbonate (1.6 g, 12 mmol) and iodomethane (740 μL, 12 mmol) in N,N-dimethylformamide was stirred at 50° C. for 75 minutes. Water (50 mL) was added to the reaction mixture, extracted with a mixed solvent (50 mL) which consists of hexane and ethyl acetate (3:1). The organic layer was washed with brine (50 mL), dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title reference compound (1.3 g) as a brown oil (Yield 77%).

reactant | 3′-mercaptoacetophenone | SC=1C=C(C=CC1)C(C)=O | C8H8OS
reactant | potassium carbonate | 12 mmol, 1.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 12 mmol, 740 μL | IC | CH3I
reactant | Water | 50 mL | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3′-(Methylthio)acetophenone | 1.3 g, Yield 77% | CSC=1C=C(C=CC1)C(C)=O | C9H10OS
